US06538010B1
5-iodo-3-nitro-2-chloropyridine (230 mg, 0.809 mmol), ethanol (1 mL), water (6 drops), and concentrated HCl (0.020 mL) were stirred at room temperature for 10 min. Iron (500 mg, 8.95 mmol) was then added in small portions and the reaction round bottom flask was placed into a 100° C. oil bath for 20 min. The iron was removed by filtration, washed with ethanol, then the combined ethanol layers were concentrated under reduced pressure. The crude residue was purified by flash chromatography using 9:1 hexane: ethyl acetate to give 5-iodo-3-amino-2-chloropyridine (190 mg, 92%) as a colorless solid.

reactant | 5-iodo-3-nitro-2-chloropyridine | 0.809 mmol, 230 mg | IC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2ClIN2O2
reactant | HCl | 0.020 mL | Cl | ClH
catalyst | water | 6 drops | O | H2O
catalyst | Iron | 8.95 mmol, 500 mg | [Fe] | Fe
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-iodo-3-amino-2-chloropyridine | 190 mg, 92% | IC=1C=C(C(=NC1)Cl)N | C5H4ClIN2
